US06809092B2
2-(2,2-dimethoxyethylaminosulfonyl)nitrobenzene
To a solution of 2,2-dimethoxyethylamine (2.61 g) in methylene chloride (100 ml) were added 2-nitrophenylsulfonylchloride (5.0 g) and diisopropylethylamine (5 ml) dropwise at −78° C. and the mixture was stirred for 10 minutes at room temperature. To the reaction mixture was added 1N hydrochloric acid and was extracted with chloroform. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and was concentrated to give the title compound having the following physical data.

reactant | 2,2-dimethoxyethylamine | 2.61 g | COC(CN)OC | C4H11NO2
reactant | 2-nitrophenylsulfonylchloride | 5.0 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | diisopropylethylamine | 5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,2-dimethoxyethylaminosulfonyl)nitrobenzene | COC(CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])OC | C10H14N2O6S
